US06627651B1
To triphenylphosphine (590 mg, 2.25 mmol), 4-ethoxybenzyl alcohol (342 mg, 2.25 mmol) and methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (327 mg, 1.50 mmol) dissolved in THF (6 ml) was added at 0° C. a solution of diisopropyl azodicarboxylate (0.439 ml, 2.23 mmol) in THF (2 ml), and the resulting mixture was stirred at room temperature for 6 hours. The reaction mixture was concentrated under reduced pressure and the residue was subjected to column chromatography (silica gel: 50 g, ethyl acetate/hexane=1/25→1/19). The objective fractions were concentrated under reduced pressure, diisopropyl ether was added to the residue and an insoluble material was collected by filtration. The insoluble material was washed with diisopropyl ether and was then dried under reduced pressure to obtain methyl 2-(4-ethoxybenzyloxy)-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (308 mg, 0.87 mmol, 58%).

reactant | triphenylphosphine | 2.25 mmol, 590 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-ethoxybenzyl alcohol | 2.25 mmol, 342 mg | C(C)OC1=CC=C(CO)C=C1 | C9H12O2
reactant | methyl 2-hydroxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 1.50 mmol, 327 mg | OC=1C=CC2=C(C=C(CCC2)C(=O)OC)C1 | C13H14O3
reactant | diisopropyl azodicarboxylate | 2.23 mmol, 0.439 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | methyl 2-(4-ethoxybenzyloxy)-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 0.87 mmol, 308 mg, 58% | C(C)OC1=CC=C(COC=2C=CC3=C(C=C(CCC3)C(=O)OC)C2)C=C1 | C22H24O4
